US05405989
Two milliliters of a dry N,N-dimethylformamide solution of 618 mg of propargyl bromide is added by drops to a mixture of 1 g of 6-phenylhexanoic acid, 862 mg of potassium carbonate and 20 ml of dry N,N-dimethylformamide at room temperature with stirring. After stirring for 24 hours, the resultant solution is poured into an aqueous saturated ammonium chloride solution cooled with ice. The resulting mixture is then extracted twice with diethyl ether. The extracts are combined, washed with water and then with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue is subjected to chromatography on silica gel to obtain propargyl 6-phenylhexanoate.

reactant | propargyl bromide | 618 mg | C(C#C)Br | C3H3Br
reactant | 6-phenylhexanoic acid | 1 g | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | potassium carbonate | 862 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | Two milliliters | CN(C=O)C | C3H7NO
product | propargyl 6-phenylhexanoate | C1(=CC=CC=C1)CCCCCC(=O)OCC#C | C15H18O2
